US07897630B2
Step B: Preparation of 5-[5-(3,5-dichlorophenyl)-4,5-dihydro-3-[4-(methylsulfonyl)-phenyl]-5-(trifluoromethyl)isoxazole
To a solution of 3-(4-bromophenyl)-5-(3,5-dichlorophenyl)-4,5-dihydro-5-(trifluoromethyl)isoxazole (i.e. the product of Step A) (4.39 mg, 1.00 mmol) in tetrahydrofuran (10 mL) cooled below −75° C. was added a solution of n-butyllithium (2.5 M solution in hexanes) dropwise over three minutes, while maintaining the temperature at or below −72° C. Within one minute, S-methyl methanesulfonothioate (0.11=L, 1.2 mmol) was added dropwise. The reaction mixture was allowed to stir and warm slowly to ambient temperature, and then it was poured into 1 N aqueous sodium hydroxide solution, and the mixture was extracted with ethyl acetate. The organic phase was washed with saturated aqueous sodium chloride solution, dried over magnesium sulfate; and concentrated. The residue was subjected to chromatography on silica gel eluted with 10% ethyl acetate in hexanes. The isolated material was redissolved in dichloromethane (5 mL), treated with 3-chloroperoxybenzoic acid (˜77%, 0.39 g, 1.7 mmol) and allowed to stir at ambient temperature for 64 h. Additional 3-chloroperoxybenzoic acid (˜77%, 0.27 g, 1.2 mmol) was added, and the mixture was stirred for 4 h. To this mixture was added saturated aqueous sodium bisulfite solution, and then solid potassium carbonate was added carefully until gas evolution ceased. The phases were separated, and the organic phase was washed with 1 N aqueous sodium hydroxide solution and with saturated aqueous sodium chloride solution, dried over magnesium sulfate, and concentrated. The residue was triturated with diethyl ether and hexanes to obtain a solid which was collected on a glass frit. The solid was washed with a mixture of diether and hexanes, and dried to afford the title product (0.12 g), a compound of the present invention.

reactant | 3-(4-bromophenyl)-5-(3,5-dichlorophenyl)-4,5-dihydro-5-(trifluoromethyl)isoxazole | BrC1=CC=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl | C16H9BrCl2F3NO
reactant | n-butyllithium | 2.5 M | C(CCC)[Li]
reactant | S-methyl methanesulfonothioate | 1.2 mmol | CS(=O)(SC)=O | C2H6O2S2
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
reactant | 3-chloroperoxybenzoic acid | 1.7 mmol, 0.39 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | 3-chloroperoxybenzoic acid | 1.2 mmol, 0.27 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 5-(3,5-dichlorophenyl)-4,5-dihydro-3-[4-(methylsulfonyl)-phenyl]-5-(trifluoromethyl)isoxazole | 0.12 g | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC=C(C=C1)S(=O)(=O)C)C(F)(F)F | C17H12Cl2F3NO3S
